US07868014B2
(S)-(2,4-Dichlorobenzyl)-[1-(5-prop-1-ynyl-pyridin-2-yl)-pyrrolidin-3-yl]-amine
Dissolve (2,4-dichlorobenzyl)-[1-(5-iodopyridin-2-yl)-pyrrolidin-3-yl]-amine hydrochloride (130 mg, 0.27 mmol) in dichloromethane (10 mL) and triethylamine (10 mL). Add trans-dichlorobis(triphenylphosphine)palladium (II) (10 mg, 0.014 mmol) and copper(I) iodide (3 mg, 0.016 mmol). Bubble propyne into the mixture for 1 min. Stir the mixture overnight, filter it through a pad of Celite®, concentrate and chromatograph on silica gel, eluting with 10:90 to 1:1 ethyl acetate:hexanes, to give the title compound as a residue. Dissolve the residue in methanol, add 1 N HCl in methanol (1 mL). Concentrate and dry in vacuum oven at 60° C. to give the title compound as its hydrochloride salt as a light yellow solid (95 mg, 89%). δ 1H NMR (400 MHz, MeOH-d4) δ 8.03 (d, 1H, J=1.6 Hz), 7.84 (d, 1H, J=8.8 Hz), 7.69-7.68 (m, 2H), 7.49 (dd, 1H, J=8.0, 2.2 Hz), 6.95 (d, 1H, J=9.6 Hz), 4.53-4.45 (m, 2H), 4.28-4.23 (m, 1H), 4.10-4.06 (m, 1H), 3.90-3.83 (m, 2H), 3.72-3.66 (m, 1H), 2.73-2.65 (m, 1H), 2.50-2.41 (m, 1H), 2.03 (s, 3H), MS (ES): m/z=360 [M+H].

reactant | (2,4-dichlorobenzyl)-[1-(5-iodopyridin-2-yl)-pyrrolidin-3-yl]-amine hydrochloride | 0.27 mmol, 130 mg | Cl.ClC1=C(CNC2CN(CC2)C2=NC=C(C=C2)I)C=CC(=C1)Cl
reactant | propyne | C#CC | C3H4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.014 mmol, 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.016 mmol, 3 mg | [Cu]I
product | (S)-(2,4-Dichlorobenzyl)-[1-(5-prop-1-ynyl-pyridin-2-yl)-pyrrolidin-3-yl]-amine | ClC1=C(CN[C@@H]2CN(CC2)C2=NC=C(C=C2)C#CC)C=CC(=C1)Cl | C19H19Cl2N3
